US05210204
4'-[[2-Butyl-4-chloro-5-(t-butyldimethylsilyloxymethyl)-1H-imidazol-1-yl]methyl][1,1'-biphenyl-2-yl]carboxylic acid methyl ester
A solution of methyl 4'-bromomethylbiphenyl-2-carboxylate (2.05 g) in dry THF (10 mL) was added dropwise to a solution of 2-butyl-4-chloro-5-(t-butyldimethylsilyloxymethyl)-1H-imidazole (2.03 g) and NaN(TMS)2 (1.48 g) in dry THF (20 mL) at 0° C. and the reaction mixture was stirred at room temperature overnight. It was diluted with brine and the organic layer was collected, dried over MgSO4, and evaporated under reduced pressure. The residue was purified by flash chromatography (EtOAc, silica) to separate the two regioisomeric alkylation products. The major isomer, 4'-[[2-butyl-4 chloro-5-(t-butyldimethylsilyloxymethyl) 1H-imidazol-1-yl]methyl][1,1'-biphenyl-2-yl]carboxylic acid methyl ester (1.4 g) was used in the next step and the regiochemistry of this alkylation product was proven by NOE experiments at the stage of the hydrazide.

reactant | methyl 4'-bromomethylbiphenyl-2-carboxylate | 2.05 g | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC | C15H13BrO2
reactant | 2-butyl-4-chloro-5-(t-butyldimethylsilyloxymethyl)-1H-imidazole | 2.03 g | C(CCC)C=1NC(=C(N1)Cl)CO[Si](C)(C)C(C)(C)C | C14H27ClN2OSi
reactant | NaN(TMS)2 | 1.48 g | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 4'-[[2-Butyl-4-chloro-5-(t-butyldimethylsilyloxymethyl)-1H-imidazol-1-yl]methyl][1,1'-biphenyl-2-yl]carboxylic acid methyl ester | COC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1CO[Si](C)(C)C(C)(C)C)Cl)CCCC | C29H39ClN2O3Si
